** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_tb.sch
**.subckt telescopic_tb
I0 net1 vss 10u
V4 net2 vss {voutcm}
C3 vout_n vcm 10p
C4 vout_p vcm 10p
V5 vdd vss 3.3
V6 vss 0 0
V7 vcm vss {vincm}
E1 vin_p vcm vin vss 0.5
E2 vin_n vcm vin vss -0.5
Vin vin vss DC {vd} AC 1 0
x1 vin_p vin_n vout_n vout_p vdd vss net2 net1 telescopic
**** begin user architecture code

.param vincm=1
.param voutcm=0.8
.param vd=0
.control
save all
save @m.x1.x1.xm2.m0[id] @m.x1.x1.xm2.m0[gm] @m.x1.x1.xm2.m0[gds] @m.x1.x1.xm2.m0[cdb] @m.x1.x1.xm2.m0[cgs] @m.x1.x1.xm2.m0[csb] @m.x1.x1.xm2.m0[cgd]
save @m.x1.x1.xm3.m0[id] @m.x1.x1.xm3.m0[gm] @m.x1.x1.xm3.m0[gds] @m.x1.x1.xm3.m0[cdb] @m.x1.x1.xm3.m0[cgs] @m.x1.x1.xm3.m0[csb] @m.x1.x1.xm3.m0[cgd]
save @m.x1.x2.xm10.m0[id] @m.x1.x2.xm10.m0[gm] @m.x1.x2.xm10.m0[gds] @m.x1.x2.xm10.m0[cdb] @m.x1.x2.xm10.m0[cgs] @m.x1.x2.xm10.m0[csb] @m.x1.x2.xm10.m0[cgd]
save @m.x1.x2.xm11.m0[id] @m.x1.x2.xm11.m0[gm] @m.x1.x2.xm11.m0[gds] @m.x1.x2.xm11.m0[cdb] @m.x1.x2.xm11.m0[cgs] @m.x1.x2.xm11.m0[csb] @m.x1.x2.xm11.m0[cgd]
save @m.x1.x2.xm7.m0[id] @m.x1.x2.xm7.m0[gm] @m.x1.x2.xm7.m0[gds] @m.x1.x2.xm7.m0[cdb] @m.x1.x2.xm7.m0[cgs] @m.x1.x2.xm7.m0[csb] @m.x1.x2.xm7.m0[cgd]
save @m.x1.x2.xm8.m0[id] @m.x1.x2.xm8.m0[gm] @m.x1.x2.xm8.m0[gds] @m.x1.x2.xm8.m0[cdb] @m.x1.x2.xm8.m0[cgs] @m.x1.x2.xm8.m0[csb] @m.x1.x2.xm8.m0[cgd]
save @m.x1.x3.xm1.m0[id] @m.x1.x3.xm1.m0[gm] @m.x1.x3.xm1.m0[gds] @m.x1.x3.xm1.m0[cdb] @m.x1.x3.xm1.m0[cgs] @m.x1.x3.xm1.m0[csb] @m.x1.x3.xm1.m0[cgd]
save @m.x1.x3.xm5.m0[id] @m.x1.x3.xm5.m0[gm] @m.x1.x3.xm5.m0[gds] @m.x1.x3.xm5.m0[cdb] @m.x1.x3.xm5.m0[cgs] @m.x1.x3.xm5.m0[csb] @m.x1.x3.xm5.m0[cgd]
save @m.x1.x3.xm15.m0[id] @m.x1.x3.xm15.m0[gm] @m.x1.x3.xm15.m0[gds] @m.x1.x3.xm15.m0[cdb] @m.x1.x3.xm15.m0[cgs] @m.x1.x3.xm15.m0[csb] @m.x1.x3.xm15.m0[cgd]
save @m.x1.x3.xm9.m0[id] @m.x1.x3.xm9.m0[gm] @m.x1.x3.xm9.m0[gds] @m.x1.x3.xm9.m0[cdb] @m.x1.x3.xm9.m0[cgs] @m.x1.x3.xm9.m0[csb] @m.x1.x3.xm9.m0[cgd]
save @m.x1.x3.xm6.m0[id] @m.x1.x3.xm6.m0[gm] @m.x1.x3.xm6.m0[gds] @m.x1.x3.xm6.m0[cdb] @m.x1.x3.xm6.m0[cgs] @m.x1.x3.xm6.m0[csb] @m.x1.x3.xm6.m0[cgd]
save @m.x1.x3.xm14.m0[id] @m.x1.x3.xm14.m0[gm] @m.x1.x3.xm14.m0[gds] @m.x1.x3.xm14.m0[cdb] @m.x1.x3.xm14.m0[cgs] @m.x1.x3.xm14.m0[csb] @m.x1.x3.xm14.m0[cgd]
save @m.x1.x4.xm4.m0[id] @m.x1.x4.xm4.m0[gm] @m.x1.x4.xm4.m0[gds] @m.x1.x4.xm4.m0[cdb] @m.x1.x4.xm4.m0[cgs] @m.x1.x4.xm4.m0[csb] @m.x1.x4.xm4.m0[cgd]
save @m.x1.x4.xm16.m0[id] @m.x1.x4.xm16.m0[gm] @m.x1.x4.xm16.m0[gds] @m.x1.x4.xm16.m0[cdb] @m.x1.x4.xm16.m0[cgs] @m.x1.x4.xm16.m0[csb] @m.x1.x4.xm16.m0[cgd]
save @m.x1.x4.xm17.m0[id] @m.x1.x4.xm17.m0[gm] @m.x1.x4.xm17.m0[gds] @m.x1.x4.xm17.m0[cdb] @m.x1.x4.xm17.m0[cgs] @m.x1.x4.xm17.m0[csb] @m.x1.x4.xm17.m0[cgd]
save @m.x1.x4.xm18.m0[id] @m.x1.x4.xm18.m0[gm] @m.x1.x4.xm18.m0[gds] @m.x1.x4.xm18.m0[cdb] @m.x1.x4.xm18.m0[cgs] @m.x1.x4.xm18.m0[csb] @m.x1.x4.xm18.m0[cgd]
save @m.x1.x5.xm12.m0[id] @m.x1.x5.xm12.m0[gm] @m.x1.x5.xm12.m0[gds] @m.x1.x5.xm12.m0[cdb] @m.x1.x5.xm12.m0[cgs] @m.x1.x5.xm12.m0[csb] @m.x1.x5.xm12.m0[cgd]
save @m.x1.x5.xm13.m0[id] @m.x1.x5.xm13.m0[gm] @m.x1.x5.xm13.m0[gds] @m.x1.x5.xm13.m0[cdb] @m.x1.x5.xm13.m0[cgs] @m.x1.x5.xm13.m0[csb] @m.x1.x5.xm13.m0[cgd]
save @m.x1.x5.xm19.m0[id] @m.x1.x5.xm19.m0[gm] @m.x1.x5.xm19.m0[gds] @m.x1.x5.xm19.m0[cdb] @m.x1.x5.xm19.m0[cgs] @m.x1.x5.xm19.m0[csb] @m.x1.x5.xm19.m0[cgd]
save @m.x1.x5.xm22.m0[id] @m.x1.x5.xm22.m0[gm] @m.x1.x5.xm22.m0[gds] @m.x1.x5.xm22.m0[cdb] @m.x1.x5.xm22.m0[cgs] @m.x1.x5.xm22.m0[csb] @m.x1.x5.xm22.m0[cgd]
save @m.x1.x5.xm25.m0[id] @m.x1.x5.xm25.m0[gm] @m.x1.x5.xm25.m0[gds] @m.x1.x5.xm25.m0[cdb] @m.x1.x5.xm25.m0[cgs] @m.x1.x5.xm25.m0[csb] @m.x1.x5.xm25.m0[cgd]
save @m.x1.x5.xm26.m0[id] @m.x1.x5.xm26.m0[gm] @m.x1.x5.xm26.m0[gds] @m.x1.x5.xm26.m0[cdb] @m.x1.x5.xm26.m0[cgs] @m.x1.x5.xm26.m0[csb] @m.x1.x5.xm26.m0[cgd]
save @m.x1.x5.xm27.m0[id] @m.x1.x5.xm27.m0[gm] @m.x1.x5.xm27.m0[gds] @m.x1.x5.xm27.m0[cdb] @m.x1.x5.xm27.m0[cgs] @m.x1.x5.xm27.m0[csb] @m.x1.x5.xm27.m0[cgd]
save @m.x1.x5.xm28.m0[id] @m.x1.x5.xm28.m0[gm] @m.x1.x5.xm28.m0[gds] @m.x1.x5.xm28.m0[cdb] @m.x1.x5.xm28.m0[cgs] @m.x1.x5.xm28.m0[csb] @m.x1.x5.xm28.m0[cgd]
save @m.x1.x5.xm20.m0[id] @m.x1.x5.xm20.m0[gm] @m.x1.x5.xm20.m0[gds] @m.x1.x5.xm20.m0[cdb] @m.x1.x5.xm20.m0[cgs] @m.x1.x5.xm20.m0[csb] @m.x1.x5.xm20.m0[cgd]
save @m.x1.x5.xm21.m0[id] @m.x1.x5.xm21.m0[gm] @m.x1.x5.xm21.m0[gds] @m.x1.x5.xm21.m0[cdb] @m.x1.x5.xm21.m0[cgs] @m.x1.x5.xm21.m0[csb] @m.x1.x5.xm21.m0[cgd]
save @m.x1.x5.xm23.m0[id] @m.x1.x5.xm23.m0[gm] @m.x1.x5.xm23.m0[gds] @m.x1.x5.xm23.m0[cdb] @m.x1.x5.xm23.m0[cgs] @m.x1.x5.xm23.m0[csb] @m.x1.x5.xm23.m0[cgd]

op
write ota_op.raw all
ac dec 100 1 10G
write ota_ac.raw all
*noise v(vout_p, vout_n) Vin dec 10 1 1000Meg
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical

**** end user architecture code
**.ends

* expanding   symbol:  rrl/telescopic.sym # of pins=8
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic.sch
.subckt telescopic vin_p vin_n vout_p vout_n vdd vss vcm_set iref
*.iopin vin_p
*.iopin vin_n
*.iopin vout_p
*.iopin vout_n
*.iopin vdd
*.iopin vss
*.iopin vcm_set
*.iopin iref
x1 vtail vdd vin_n vin_p vps_1 vps_2 telescopic_input_pair
x2 vdd vss vps_1 vps_2 vns_1 vns_2 vout_p vout_n vbp vbn telescopic_cascode
x3 vbn v_pcasc_bias vtail vbp vss vdd telescopic_cascode_bias
x4 vdd vbn v_pcasc_bias vtail iref telescopic_pmos_bias
x5 vns_1 vns_2 vout_p vout_n iref vdd vss vcm_set telescopic_cmfb
.ends


* expanding   symbol:  rrl/telescopic_input_pair.sym # of pins=6
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_input_pair.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_input_pair.sch
.subckt telescopic_input_pair vtail vdd vin_1 vin_2 vd_1 vd_2
*.iopin vtail
*.iopin vdd
*.iopin vin_1
*.iopin vin_2
*.iopin vd_1
*.iopin vd_2
XM2 vd_1 vin_1 vtail vdd pfet_03v3 L=0.84u W=32u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 vd_2 vin_2 vtail vdd pfet_03v3 L=0.84u W=32u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
* noconn vtail
.ends


* expanding   symbol:  rrl/telescopic_cascode.sym # of pins=10
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cascode.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cascode.sch
.subckt telescopic_cascode vdd vss pmos_vs_1 pmos_vs_2 nmos_vs_1 nmos_vs_2 vout_1 vout_2 pmos_vb nmos_vb
*.iopin vdd
*.iopin vss
*.iopin pmos_vs_1
*.iopin pmos_vs_2
*.iopin nmos_vs_1
*.iopin nmos_vs_2
*.iopin vout_1
*.iopin vout_2
*.iopin pmos_vb
*.iopin nmos_vb
XM10 vout_1 nmos_vb nmos_vs_1 vss nfet_03v3 L=0.28u W=6u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 vout_2 nmos_vb nmos_vs_2 vss nfet_03v3 L=0.28u W=6u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 vout_1 pmos_vb pmos_vs_1 vdd pfet_03v3 L=0.28u W=16u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 vout_2 pmos_vb pmos_vs_2 vdd pfet_03v3 L=0.28u W=16u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  rrl/telescopic_cascode_bias.sym # of pins=6
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cascode_bias.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cascode_bias.sch
.subckt telescopic_cascode_bias vb_nmos_casc bias vtail vb_pmos_casc vss vdd
*.iopin vb_nmos_casc
*.iopin bias
*.iopin vtail
*.iopin vb_pmos_casc
*.iopin vss
*.iopin vdd
XM1 net1 vb_nmos_casc vss vss nfet_03v3 L=3u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 vds_input vb_pmos_casc vtail vdd pfet_03v3 L=0.84u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 bias bias vss vss nfet_03v3 L=3u W=4.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 vb_pmos_casc bias vss vss nfet_03v3 L=3u W=4.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 vb_pmos_casc vb_pmos_casc vds_input vdd pfet_03v3 L=0.28u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 vb_nmos_casc vb_nmos_casc net1 vss nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  rrl/telescopic_pmos_bias.sym # of pins=6
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_pmos_bias.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_pmos_bias.sch
.subckt telescopic_pmos_bias vdd vbias_ncasc vbias_pcasc vtail iref
*.iopin vdd
*.iopin vbias_ncasc
*.iopin vbias_pcasc
*.iopin vtail
*.iopin iref
XM4 vtail iref vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=50
XM16 vbias_pcasc iref vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM17 vbias_ncasc iref vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM18 iref iref vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
.ends


* expanding   symbol:  rrl/telescopic_cmfb.sym # of pins=8
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cmfb.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/rrl/telescopic_cmfb.sch
.subckt telescopic_cmfb nmos_vs_1 nmos_vs_2 vout_1 vout_2 vg_pmos vdd vss vcm_set
*.iopin nmos_vs_1
*.iopin nmos_vs_2
*.iopin vout_1
*.iopin vout_2
*.iopin vg_pmos
*.iopin vdd
*.iopin vss
*.iopin vcm_set
XM12 nmos_vs_1 vb_nbias vss vss nfet_03v3 L=3u W=18u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 nmos_vs_2 vb_nbias vss vss nfet_03v3 L=3u W=18u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM19 vtail_cmfb1 vg_pmos vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=20
XM22 vtail_cmfb2 vg_pmos vdd vdd pfet_03v3 L=3u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=20
XM25 vb_nbias vb_nbias vss vss nfet_03v3 L=3u W=18u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM26 vcmfb_1 vcmfb_1 vss vss nfet_03v3 L=3u W=18u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM27 vcmfb_2 vcmfb_2 vss vss nfet_03v3 L=3u W=18u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM28 vcmfb_1 vout_1 vtail_cmfb1 vdd pfet_03v3 L=0.84u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM20 vb_nbias vcm_set vtail_cmfb1 vdd pfet_03v3 L=0.84u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM21 vb_nbias vcm_set vtail_cmfb2 vdd pfet_03v3 L=0.84u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM23 vcmfb_2 vout_2 vtail_cmfb2 vdd pfet_03v3 L=0.84u W=8u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
